US05821374
5 g (32.6 mmol) of 4-nitrobenzylalcohol, 2.7 g (32.9 mmol) of sodium acetate and 10 mg (0.06 mmol) of TEMPO were suspended in 40 ml of methylene chloride in a 100 ml sulphonation flask and the suspension was cooled to (-8)-(-10)° C. while stirring. A solution of 3.03 g (13.0 mmol) of trichloroisocyanuric acid in 20 ml of acetone was dosed in within 1 hour, whereupon the mixture was held at (-5)° C. for 1 hour. Thereafter, the reaction had finished. The white precipitate was filtered off and the filtrate was washed with sodium bicarbonate solution and with sodium chloride solution. The organic phase was concentrated and the residue was recrystallized from diisopropyl ether. There were obtained 4.62 g (94%) of 4-nitrobenzaldehyde, GC content: (97.7%) (area percent).

reactant | 4-nitrobenzylalcohol | 32.6 mmol, 5 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | sodium acetate | 32.9 mmol, 2.7 g | C(C)(=O)[O-].[Na+]
reactant | trichloroisocyanuric acid | 13.0 mmol, 3.03 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
catalyst | TEMPO | 0.06 mmol, 10 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | 4-nitrobenzaldehyde | 4.62 g, 94% | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
